US07102046B2
Synthesis of methyl 3-cyano-4-trifluoromethylcinnamate
0.619 g (7.2 mmol) of methyl acrylate, 38.7 mg (120 μmol) of NBu4Br, 6.7 mg (30 μmol) of palladium acetate and 26.7 mg (120 μmol) of phenyldi(t-butyl)phosphine are weighed into a Schlenk vessel. 1.23 g (6 mmol) of 3-cyano-4-trifluoromethylchlorobenzene and 1.53 ml (7.2 mmol) of dicylohexylmethylamine and also 3.5 ml of dimethylacetamide are then added. The Schlenk vessel is placed in a heating bath at 130° C. and the contents are stirred. After 4 hours, the contents are poured into 30 ml of water and the product is extracted by shaking with t-butyl methyl ether. After drying the organic phase over MgSO4, the solvent is removed under reduced pressure and the product is isolated. Yellowish, crystalline solid, yield: 1.31 g (85.5% of theory).

reactant | methyl acrylate | 7.2 mmol, 0.619 g | C(C=C)(=O)OC | C4H6O2
reactant | phenyldi(t-butyl)phosphine | 120 μmol, 26.7 mg | C1(=CC=CC=C1)P(C(C)(C)C)C(C)(C)C | C14H23P
reactant | 3-cyano-4-trifluoromethylchlorobenzene | 6 mmol, 1.23 g | C(#N)C=1C=C(C=CC1C(F)(F)F)Cl | C8H3ClF3N
reactant | dicylohexylmethylamine | 7.2 mmol, 1.53 ml | C1(CCCCC1)C(C1CCCCC1)N | C13H25N
catalyst | palladium acetate | 30 μmol, 6.7 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 30 ml | O | H2O
solvent | dimethylacetamide | 3.5 ml | CC(=O)N(C)C | C4H9NO
product | methyl 3-cyano-4-trifluoromethylcinnamate | C(#N)C=1C=C(C=CC(=O)OC)C=CC1C(F)(F)F | C12H8F3NO2
